US06964961B2
B. N-(1-Benzhydryl-azetidin-3-yl)-acetamide
The title compound was prepared from 1-benzhydryl-azetidin-3-ylamine and acetyl chloride by a procedure analogous to Example 70A. MS: 281 (MH+); HPLC Rf: 5.57 min; HPLC purity: 93%.

reactant | 1-benzhydryl-azetidin-3-ylamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N | C16H18N2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(1-Benzhydryl-azetidin-3-yl)-acetamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC(C)=O | C18H20N2O
